US06765012B2
5-Fluoro-3-{[4-(1-methyl-piperidin-3-ylmethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(1-methyl-piperidin-3-ylmethoxy)-phenylamine hydrochloride (688 mg, 1.2 equiv.) and 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (400 mg, 2.23 mmol, 1 equiv.) with the addition of anhydrous Et3N (2.25 equiv.) are reacted to give the named compound as a yellow solid (657 mg, 77%).

reactant | 4-(1-methyl-piperidin-3-ylmethoxy)-phenylamine hydrochloride | 688 mg, 1.2 equiv. | Cl.CN1CC(CCC1)COC1=CC=C(C=C1)N
reactant | 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.23 mmol, 400 mg, 1 equiv. | FC=1C=C2C(C(NC2=CC1)=O)=CO | C9H6FNO2
reactant | Et3N | 2.25 equiv. | CCN(CC)CC | C6H15N
product | 5-Fluoro-3-{[4-(1-methyl-piperidin-3-ylmethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 657 mg, 77% | FC=1C=C2C(C(NC2=CC1)=O)=CNC1=CC=C(C=C1)OCC1CN(CCC1)C | C22H24FN3O2
